US07435837B2
Treatment of (±)-2-(azidomethyl)-5-chloro-7-(3-methylphenyl)-2,3-dihydro-1-benzofuran (0.26 g, 0.87 mmol) with sulfided platinum on carbon (85 mg, 5 wt. %) generally according to the procedure described for Example 1 afforded 0.14 g (59%) of (±)-1-[5-chloro-7-(3-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 268-271° C.; Anal. calcd. for C16H16ClNOHCl: C, 61.95; H, 5.52; N, 4.52. Found: C, 61.01; H, 5.44; N, 4.35.

reactant | (±)-2-(azidomethyl)-5-chloro-7-(3-methylphenyl)-2,3-dihydro-1-benzofuran | 0.87 mmol, 0.26 g | N(=[N+]=[N-])CC1OC2=C(C1)C=C(C=C2C2=CC(=CC=C2)C)Cl | C16H14ClN3O
catalyst | sulfided platinum on carbon | 85 mg | [Pt] | Pt
product | (±)-1-[5-chloro-7-(3-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.14 g, 59% | ClC=1C=C(C2=C(CC(O2)CN)C1)C1=CC(=CC=C1)C | C16H16ClNO
